US09107916B2
B. 2-[5-[[4-chloro-2-(2-methoxyethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-(2-methoxyethoxy)phenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 3.39 (3H, s), 3.74 (2H, t, J=4.8 Hz), 4.18 (2H, t, J=4.8 Hz), 5.26 (2H, s), 5.81 (1H, s), 6.92 (1H, d, J=1.6 Hz), 6.98 (1H, dd, J=2.0 Hz, 8.0 Hz), 7.35 (1H, d, J=8.0 Hz), 7.39 (1H, d, J=5.2 Hz), 7.57 (1H, d, J=1.2 Hz), 8.06 (1H, s), 8.70 (1H, d, J=5.2 Hz). [M+H] Calc'd for C19H17ClN4O3, 385. Found, 385.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-(2-methoxyethoxy)phenyl)methanol | ClC1=CC(=C(C=C1)CO)OCCOC | C10H13ClO3
product | 2-[5-[[4-chloro-2-(2-methoxyethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCCOC | C19H17ClN4O3
